US06344459B1
To a stirred solution containing the above 4-N,N-dimethylamino-6-aminoquinazoline (0.65 g, 3.45 mmol), acrylic acid (4 mol eq., 13.8 mmol, 0.95 mL), and pyridine (excess, 1.3 mL) in DMA (20 mL) under N2 was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI.HCl) (2 mol eq., 6.90 mmol, 1.32 g). The standard procedure above was followed to give after chromatography on silica gel eluting with EtOAc/CH2Cl2 (1:1) to MeOH/CH2Cl2/EtOAc (1:4:5), [4-(N,N-dimethylamino)quinazolin-6-yl]acrylamide (350 mg, 42%) as a cream powder, mp (CH2Cl2/hexane) 204-206° C.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | pyridine | 1.3 mL | N1=CC=CC=C1 | C5H5N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
reactant | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
solvent | MeOH CH2Cl2 EtOAc | CO.C(Cl)Cl.CCOC(=O)C
product | [4-(N,N-dimethylamino)quinazolin-6-yl]acrylamide | 350 mg, 42% | CN(C)C1=NC=NC2=CC=C(C=C12)C(C(=O)N)=C | C13H14N4O
